US08071592B2
(h) 1-{2-[(3R,4R)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone
To a solution of phenylmethyl [((3R,4R)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-3-pyrrolidinyl)methyl]carbamate (337 mg, 0.746 mmol) was added 20% Pd(OH)2/C, degassed and placed under 1 atm of H2 for 18 h. The reaction mixture was filtered through Celite and concentrated to obtain the title compound as a yellow oil (235 mg, 100%).

reactant | phenylmethyl [((3R,4R)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-3-pyrrolidinyl)methyl]carbamate | 0.746 mmol, 337 mg | O[C@@H]1[C@@H](CN(C1)CCN1C(C=CC2=CC=C(C=C12)OC)=O)CNC(OCC1=CC=CC=C1)=O | C25H29N3O5
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
product | 1-{2-[(3R,4R)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone | 235 mg, 100% | NC[C@@H]1CN(C[C@@H]1O)CCN1C(C=CC2=CC=C(C=C12)OC)=O | C17H23N3O3
